US06987194B2
Step E Synthesis of 4-[2,6-dichloro-4-(phenylmethoxy)phenoxy]butan-1-ol as an Intermediate
A solution of 33.9 grams (0.126 mole) of 2,6-dichloro-4-phenylmethoxyphenol (known compound), 16.4 grams (0.151 mole) of 4-chlorobutan-1-ol and 20.9 grams (0.151 mole) of potassium carbonate in 300 mL of DMF was warmed to 80° C. where it stirred during an 18 hour period. After this time the reaction mixture was concentrated under reduced pressure to a residue. Water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with water and then with an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using a mixture of 1:1 ethyl acetate and hexane as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 12.2 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2,6-dichloro-4-phenylmethoxyphenol | 0.126 mole, 33.9 grams | ClC1=C(C(=CC(=C1)OCC1=CC=CC=C1)Cl)O | C13H10Cl2O2
reactant | 4-chlorobutan-1-ol | 0.151 mole, 16.4 grams | ClCCCCO | C4H9ClO
reactant | potassium carbonate | 0.151 mole, 20.9 grams | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 4-[2,6-dichloro-4-(phenylmethoxy)phenoxy]butan-1-ol | 12.2 grams | ClC1=C(OCCCCO)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C17H18Cl2O3
